US03959278
A mixture of 3-methyl-3-hydroxybut-1-ene (32 g.), acetic acid (150 ml.) and boric acid (30 g.) was stirred at 105° for 4 hours. The cooled reaction mixture was diluted with water, neutralised with solid sodium carbonate and extracted with ether (3 × 50 ml.) The combined ethereal extracts were brine washed, dried and the solvent removed giving a pale yellow oil (30 g.) Distillation gave 3,3-dimethylallyl acetate as a colourless oil (22 g.) b.p. 44°-45°/14 mm Hg.

reactant | 3-methyl-3-hydroxybut-1-ene | 32 g | CC(C=C)(C)O | C5H10O
reactant | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
reactant | boric acid | 30 g | B(O)(O)O | BH3O3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
product | 3,3-dimethylallyl acetate | C(C)(=O)OCC=C(C)C | C7H12O2
